US07323472B2
4-(2-Fluoro-phenyl)-6-isopropylamino-2-methylsulfanyl-pyrimidine-5-carbaldehyde
Prepared as described above in Example 11 starting from 4-chloro-6-isopropylamino-2-methylsulfanyl-pyrimidine-5-carbaldehyde and 2-fluorophenylboronic acid to give the title compound 4-(2-fluoro-phenyl)-6-isopropylamino-2-methylsulfanyl-pyrimidine-5-carbaldehyde. 1H-NMR: δ 1.31 (d, 6H, J=5.7 Hz), 2.56 (s, 3H), 4.51 (m, 1H), 7.05-7.31 (m, 2H), 7.41-7.55 (m, 2H), 9.02 (br s, 1H), 9.64 (s, 1H). LC MS (m/e)=306 (NH+).

reactant | 4-chloro-6-isopropylamino-2-methylsulfanyl-pyrimidine-5-carbaldehyde | ClC1=NC(=NC(=C1C=O)NC(C)C)SC | C9H12ClN3OS
reactant | 2-fluorophenylboronic acid | FC1=C(C=CC=C1)B(O)O | C6H6BFO2
product | 4-(2-fluoro-phenyl)-6-isopropylamino-2-methylsulfanyl-pyrimidine-5-carbaldehyde | FC1=C(C=CC=C1)C1=NC(=NC(=C1C=O)NC(C)C)SC | C15H16FN3OS
